US05449837
Fractionation of the combined products afforded 23.2 g of a mixture, boiling point up to 39.5° C., shown by 1H and 19F NMR and GC to contain mainly CFCl3 and (CF3)2CHOCF2Cl along with a small amount of trifluoromethyl 1,1,1,3,3,3-hexafluoro-2-propyl ether. There was then distilled 120.1 g, boiling point 40° to 45° C., identified by GC and NMR as chlorodifluoromethyl 1,1,1,3,3,3-hexafluoro-2-propyl ether. Next came 2.7 g, boiling point 75° to 79° C., of dichlorofluoromethyl 1,1,1,3,3,3-hexafluoro-2-propyl ether, identified by GC and NMR. Finally, there was obtained 24.4 g of 2,6-bis(trifluoromethyl)1,1,1,4,4,7,7,7-octafluoro-3,5-dioxaheptane, ((CF3)2CHOCF2OCH(CF3)2), boiling point 89° to 94° C. identified by GC and NMR analyses. NMR and mass spectroscopic (MS) analyses of (CF3)2CHOCF2OCH(CF3)2 are as follows: 1H-NMR (CDCl3) δ 4.78 (septet, JHF, 5.4 Hz, OCH(CF3)2); 19F-NMR (CDCl3) φ-60.9 (m, 2F, OCF2O), -74.3 (m, 12F, CF3). MS, m/e 364.966156 (M+ -F; mass meas. C7H2F13O2), 314.9808 (M+ -CF3), 216.983002 (mass meas. (CF3)2CHOCF2+), 150.9758 (CF3CHCF3+).

reactant | CFCl3 | C(F)(Cl)(Cl)Cl | CCl3F
reactant | (CF3)2CHOCF2Cl | C(C(F)(F)F)(C(F)(F)F)OC(F)(F)Cl | C4HClF8O
reactant | trifluoromethyl 1,1,1,3,3,3-hexafluoro-2-propyl ether | FC(C(C(F)(F)F)OC(F)(F)F)(F)F | C4HF9O
product | 2,6-bis(trifluoromethyl)1,1,1,4,4,7,7,7-octafluoro-3,5-dioxaheptane | 24.4 g | FC(C(C(F)(F)F)OC(OC(C(F)(F)F)C(F)(F)F)(F)F)(F)F | C7H2F14O2
